US07943639B2
4-(7-Bromo-isoquinoline-1-yl)-piperazine-1-carboxylic acid, tert-butyl ester
To a suspension of 7-bromo-1-chloroisoquinoline (3.14 g, 13 mmol) in DMSO (20 mL) at room temperature was added either carboxylic acid tert-butyl (BOC)piperazine (7.23 g, 38.8 mmol) or BOC-homopiperazine (7.77 g, 38.8 mmol) and then potassium carbonate (5.36 g, 39 mmol). The mixture was heated to 110° C. for 24 h. On cooling, the mixture was poured onto ice/water (50 mL) and extracted with ethyl acetate (3×50 mL). The combined organic phases were washed with water 50 mL) and brine (50 mL). Before drying over anhydrous sodium sulfate. Removal of solvent under reduced pressure gave crude product. Purification was performed by applying the crude material to a plug of silica in a filter funnel and eluting with heptane/ethyl acetate (2:1) and gave 2.73 g (54%) yellow oil. 1H NMR (CDCl3) δ 8.20-8.22 (m, 1H), 8.13-8.18 (d, J=6 Hz, 1H), 7.65-7-71 (dd, J=12, 3 Hz, 1H), 7.59-7.65 (d, J=12 Hz, 1H), 7.21-7.25 (m, 1H), 3.64-3.73 (m, 4H), 7.27-7.36 (m, 4H), 1.49 (s, 9H); LCMS: 392, 394, 395.

reactant | 7-bromo-1-chloroisoquinoline | 13 mmol, 3.14 g | BrC1=CC=C2C=CN=C(C2=C1)Cl | C9H5BrClN
reactant | BOC-homopiperazine | 38.8 mmol, 7.77 g | C(=O)(OC(C)(C)C)N1CCNCCC1 | C10H20N2O2
reactant | potassium carbonate | 39 mmol, 5.36 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 4-(7-Bromo-isoquinoline-1-yl)-piperazine-1-carboxylic acid, tert-butyl ester | 2.73 g, 54% | BrC1=CC=C2C=CN=C(C2=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H22BrN3O2
